* AD8041a Spice Macro-model             
* Description: Amplifier
* Generic Desc: 160MHz rail-to-rail Amp w/ Disable
* Developed by: 
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (09/1996)
* Copyright 1996, 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance with the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*     Distortion and noise are not characterized
*
* Parameters modeled include:
*    open loop gain and phase vs frequency
*    output clamping voltage and current
*    input common mode range
*    CMRR vs freq
*    I bias vs Vcm in    
*    Slew rate
*    Output currents are reflected to V supplies
*    Vos is static and will not vary with Vcm in
*    Step response is modeled at unity gain w/1k load 
*
* END Notes
*
* Node assignments
*                non-inverting input
*                | inverting input
*                | | positive supply
*                | | |  negative supply
*                | | |  |  output
*                | | |  |  |
.SUBCKT AD8041a  1 2 99 50 61 

***** Input bias current source

ecm 20 0 99 3 1 
d1 20 21 dx
v3 21 22 0.2
r20 22 0 100
f1 0 25 v3 1 
r22 25 0 1k
r23 26 28 8
d3 25 26 dx
v5 28 0 .3
g1 1 0 0 25 400e-9
g2 2 0 0 25 400e-9

***** Input Stage

R1 1 3 80k
R2 3 2 80k
C1 1 2 1.8pf
rcm1 1 0 5e6
rcm2 2 0 5e6
R3 1 98 40e6
R4 2 98 40e6 
r9 15 7 764
r10 16 7 764
q1 5 1 15 qp1
q2 6 4 16 qp1
r5 50 5 1254
r6 50 6 1254
ib3 99 7 1e-4
eos 2 4 poly(1) (108,98) 2e-3 1

***** gain stage/pole at 3200hz/clamp circuitry

g3 99 31 6 5 7.97e-4
g4 31 50 5 6 7.97e-4
r7 99 31 63e6
r8 31 50 63e6
c3 99 31 0.635e-12
c4 31 50 0.635e-12

vc1 99 45 0.72
vc2 46 50 0.72
dc1 31 45 dx
dc2 46 31 dx

***** pole at 200mhz

e1 32 98 31 98 1
rflt 32 33 1k
cflt 33 98 0.796e-12

***** internal reference

rdiv1 99 97 100k
rdiv2 97 50 100k
Eref 98 0 97 0 1
rref 98 0 1e6

***** Common mode gain network

gacm1 99 100 3 98 2e-13
gacm2 100 50 98 3 2e-13
racm1 99 100 1e4
racm2 100 50 1e4

***** Common mode gain network/zero at 3200hz 

ecm1  101 98 100 98 1e6 
racm3 101 102 1e6
racm4 102 103 1
lacm1 103 98 40u

***** Common mode gain network/zero at 100khz/pole at 60mhz

ecm2  104 98 102 98 300
racm5 104 105 300
racm6 105 106 1
lacm2 106 98 .78u

***** Common mode gain network/pole at 60mhz

ecm3 107 98 105 98 1 
racm7 107 108 10k
cacm1 108 98 0.265e-12

***** buffer to output stage

gbuf 98 34 33 98 1e-4
re1 34 98 10k

***** output stage

fo1 98 110 vcd 1
do1 110 111 dx
do2 112 110 dx
vi1 111 98 0
vi2 98 112 0

fsy 99 50 poly(2) vi1 vi2 4.73e-3 1 1

go3 60 99 99 34 0.1
go4 50 60 34 50 0.1
r03 60 99 10
r04 60 50 10
vcd 60 62 0
lo1 62 61 2n
ro2 61 98 1e9
do5 34 70 dx
do6 71 34 dx
vo1 70 60 -0.31
vo2 60 71 -0.05

.model dx d(is=1e-15)
.model qn1 npn(bf=500 vaf=100)
.model qp1 pnp(bf=500 vaf=60)
.ends ad8041a





